Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Iodine; Iodine Containing / Cardizem / Morphine / Vancomycin / 
Penicillins / Propofol
 
Attending: ___
 
Chief Complaint:
Right hip pain
 
Major Surgical or Invasive Procedure:
Right THA

 
History of Present Illness:
___ year old male with a history of chronic hip pain.  To date He 
has failed
conservative management including phycial therapy and 
injections. He has
radiographic signs of advanced arthritis including sclerosis and 
joint space
narrowing.   Since this is severly affecting his ADLs,  we have 
decided that
joint replacement would be the best option to restore function.  
 

 
Past Medical History:
DM-II on lantus (intermittently takes ___
CAD s/p MI ___
HTN
Low back pain
glaucoma
impotence
current smoking
peripheral neuropathy
trivial  MR
___

 
Social History:
___
Family History:
Father-CAD
Mother-DM
 
Physical Exam:
Well apprearing male in no acute distress. Afebrile with stable 
vital signs
and controlled pain.
o Respiratory: CTAB
o Cardiovascular: RRR
o Gastrointestinal: NABS
o Genitourinary: voiding w/o foley
o Lymph: no LAD
o Musculoskeletal-Extremities: RLE SILT sp/dp/saph/sural. no 
calf tenderness,
___ strength in the rightlower extremity.
o Neurologic: in tact with no focal deficits
o Integument: no rashes, incision clean, dry and in tact without 
erythema or
drainage
o Psychiatric: pleasant w/o psychosis
 
Pertinent Results:
___ 08:35AM BLOOD WBC-15.5* RBC-3.87* Hgb-9.9* Hct-31.7* 
MCV-82 MCH-25.6* MCHC-31.3 RDW-17.2* Plt ___
___ 07:55AM BLOOD WBC-15.9* RBC-3.89* Hgb-10.5* Hct-31.6* 
MCV-81* MCH-27.1 MCHC-33.4 RDW-17.3* Plt ___
___ 08:10AM BLOOD WBC-16.1* RBC-3.98* Hgb-10.4* Hct-31.7* 
MCV-80* MCH-26.1* MCHC-32.8 RDW-17.2* Plt ___
___ 08:35AM BLOOD Plt ___
___ 07:55AM BLOOD Plt ___
___ 08:10AM BLOOD Plt ___
___ 11:01AM BLOOD Plt ___
___ 08:10AM BLOOD Calcium-8.4 Phos-3.7 Mg-1.9
___ 07:40PM BLOOD Calcium-8.9 Phos-4.2 Mg-1.9
___ 11:01AM BLOOD Calcium-8.3* Phos-3.3 Mg-1.9

 
Brief Hospital Course:
The patient was admitted on ___ and, later that day, was 
taken to the
operating room by ___ right total hip arthroplasty 
without complication.  Please see
operative report for details. Postoperatively the patient did 
well.  The patient
was initially treated with a PCA followed by PO pain medications 
on POD#1.  The
patient received IV antibiotics for 24 hours postoperatively, as 
well as lovenox
for DVT prophylaxis starting on the morning of POD#1.   The 
drain was removed
without incident on POD#1. The Foley catheter was removed 
without incident. The
surgical dressing was removed on POD#2 and the surgical incision 
was found to be
clean, dry, and intact without erythema or purulent drainage. 

While in the hospital, the patient was seen daily by physical 
therapy. Labs were
checked throughout the hospital course and repleted accordingly. 
At the time of
discharge the patient was tolerating a regular diet and feeling 
well.  The
patient was afebrile with stable vital signs.
The patient's hematocrit was stable, and the patient's pain was 
adequately
controlled on a PO regimen. The operative extremity was 
neurovascularly intact
and the wound was benign. The patient was discharged to home 
with services or
rehabilitation in a stable condition.  The patient's 
weight-bearing status was
weight bearing as tolerated with posterior precautions.

 
Medications on Admission:
Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
Oxycodone 5 mg Tablet Sig: Two (2) Tablet PO Q4H (every 4 hours) 
as needed for pain. Disp:*70 Tablet(s)* Refills:*0* 
Metoprolol Succinate Oral as directed
Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

 
Discharge Medications:
1. Lovenox 40 mg/0.4 mL Syringe Sig: One (1) vial Subcutaneous 
once a day for 21 days: take 1 40mg vial daily.
Disp:*21 vials* Refills:*0*
2. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Oxycodone 5 mg Tablet Sig: Two (2) Tablet PO Q4H (every 4 
hours) as needed for pain.
Disp:*70 Tablet(s)* Refills:*0*
4. Metoprolol Succinate  Oral as directed
5. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
7. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Right hip OA

 
Discharge Condition:
good

 
Discharge Instructions:
1. Please return to the emergency department or notify MD if you 
experience severe pain not relieved by medication, increased 
swelling, decreased sensation, difficulty with movement, fevers 
>101.5, shaking chills, redness or drainage from the incision 
site, chest pain, shortness of breath or any other concerns.
2. Please follow up with your PCP regarding this admission and 
any new medications and refills. 
3. Resume your home medications unless otherwise instructed. 
4. You have been given medications for pain control. Please do 
not operate heavy machinery or drink alcohol when taking these 
medications. As your pain improves, please decrease the amount 
of pain medication. This medication can cause constipation, so 
you should drink plenty of water daily and take a stool softener 
(e.g., colace) as needed to prevent this side effect.
5. You may not drive a car until cleared to do so by your 
surgeon or your primary physician.
6. Please keep your wounds clean. You may get the wound wet or 
take a shower starting 5 days after surgery, but no baths or 
swimming for at least 4 weeks. No dressing is needed if wound 
continues to be non-draining. Any stitches or staples that need 
to be removed will be taken out by Dr. ___ at 2 weeks after 
your surgery.
7. Please call your surgeon's office to schedule or confirm your 
follow-up appointment at 4 weeks.
8. Please DO NOT take any NSAIDs (i.e. celebrex, ibuprofen, 
advil, motrin, etc). 
9. ANTICOAGULATION: Please continue your lovenox for 3 weeks to 
prevent deep vein thrombosis (blood clots).  After completing 
the lovenox, please take Aspirin 325mg twice daily for an 
additional three weeks. 
10. WOUND CARE: Please keep your incision clean and dry. It is 
okay to shower after POD#5 but do not take a tub-bath or 
submerge your incision until 4 weeks after surgery. Please place 
a dry sterile dressing on the wound each day if there is 
drainage, otherwise leave it open to air. Check wound regularly 
for signs of infection such as redness or thick yellow drainage. 
Staples will be removed by Dr. ___ 2 weeks. If you are going 
to rehab, the rehab facility can remove the staples at 2 weeks.
11. ___ (once at home): Home ___, dressing changes as 
instructed, wound checks.
12. ACTIVITY: Weight bearing as tolerated on the operative leg. 
No strenuous exercise or heavy lifting until follow up 
appointment.  
Physical Therapy:
As tolerated
Treatments Frequency:
Please keep your wounds clean. You may get the wound wet or take 
a shower starting 5 days after surgery, but no baths or swimming 
for at least 4 weeks. No dressing is needed if wound continues 
to be non-draining. Any stitches or staples that need to be 
removed will be taken out by Dr. ___ at 2 weeks after your 
surgery.

WOUND CARE: Please keep your incision clean and dry. It is okay 
to shower after POD#5 but do not take a tub-bath or submerge 
your incision until 4 weeks after surgery. Please place a dry 
sterile dressing on the wound each day if there is drainage, 
otherwise leave it open to air. Check wound regularly for signs 
of infection such as redness or thick yellow drainage. Staples 
will be removed by Dr. ___ 2 weeks. If you are going to 
rehab, the rehab facility can remove the staples at 2 weeks.
___ (once at home): Home ___, dressing changes as instructed, 
wound checks.

 
Followup Instructions:
___